US04577019
Menadione bisulfite-thiamine adduct.
25 g of thiamine hydrochloride (vitamin B1) was dissolved in 50 g of water; to said solution of 25 g of powdery sodium menadione bisulfite was added within about half an hour. After half an hour of agitation, the reaction mass became opalescent and the adduct began to precipitate. After an hour, the precipitate was filtered, washed and dried. 25 g of a white product having the following analysis was obtained.

reactant | thiamine hydrochloride | 25 g | CC1=C(SC=[N+]1CC=2C=NC(=NC2N)C)CCO.Cl.[Cl-]
reactant | sodium menadione bisulfite | 25 g | CC1(CC(=O)C2=CC=CC=C2C1=O)S(=O)(=O)[O-].[Na+]
solvent | water | 50 g | O | H2O
product | Menadione bisulfite thiamine | CC1(CC(=O)C2=CC=CC=C2C1=O)S(=O)(=O)O.CC1=C(SC=[N+]1CC=2C=NC(=NC2N)C)CCO | InChI=1S/C12H17N4OS.C11H10O5S/c1-8-11(3-4-17)18-7-16(8)6-10-5-14-9(2)15-12(10)13;1-11(17(14,15)16)6-9(12)7-4-2-3-5-8(7)10(11)13/h5,7,17H,3-4,6H2,1-2H3,(H2,13,14,15);2-5H,6H2,1H3,(H,14,15,16)/q+1;
